US08835472B2
N-(4-iodophenethyl)acetamide
3.00 g (12.1 mmol) 4-iodophenethylamine and 0.37 g (3.03 mmol) DMAP in 50 mL THF are cooled down to 0° C. 4.95 g (48.5 mmol) acetic anhydride are added and, after removing of the cooling bath, the reaction mixture is stirred for 5 h at r.t. The reaction mixture is quenched in ice cold water and extracted with EtOAc. The organic layer is dried with Na2SO4 and the solvent is removed in vacuo. The crude product is purified by column chromatography (silica gel, DCM/MeOH 98.5/1.5).

reactant | 4-iodophenethylamine | 12.1 mmol, 3.00 g | IC1=CC=C(CCN)C=C1 | C8H10IN
reactant | acetic anhydride | 48.5 mmol, 4.95 g | C(C)(=O)OC(C)=O | C4H6O3
catalyst | DMAP | 3.03 mmol, 0.37 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | N-(4-iodophenethyl)acetamide | IC1=CC=C(CCNC(C)=O)C=C1 | C10H12INO
